US09340538B2
Step C: 4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid
Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate (0.2 g, 0.41 mmol) was reacted with morpholine-3-carboxylic acid hydrochloride (0.07 g, 0.41 mmol) according to the procedure as described in Example 1, Step C to give the title compound as a yellow solid (0.2 g, 90%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 6-(bromomethyl)-4-(2-chloro-4-fluorophenyl)-2-(5-fluorothiazol-2-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.41 mmol, 0.2 g | BrCC1=C(C(N=C(N1)C=1SC(=CN1)F)C1=C(C=C(C=C1)F)Cl)C(=O)OCC | C17H13BrClF2N3O2S
reactant | morpholine-3-carboxylic acid hydrochloride | 0.41 mmol, 0.07 g | Cl.N1C(COCC1)C(=O)O
product | 4-((6-(2-chloro-4-fluorophenyl)-5-(ethoxycarbonyl)-2-(5-fluorothiazol-2-yl)-3,6-dihydropyrimidin-4-yl)methyl)morpholine-3-carboxylic acid | 0.2 g, 90% | ClC1=C(C=CC(=C1)F)C1C(=C(NC(=N1)C=1SC(=CN1)F)CN1C(COCC1)C(=O)O)C(=O)OCC | C22H21ClF2N4O5S
